US05266593
1. 3-Trifluoromethyl-benzyltriphenylphosphonium bromide
A solution of 3-trifluoromethylbenzylbromide (4.6 g, 0.019 mol) and triphenylphosphine (5.0 g, 0.019 mol) in dry toluene (200 mL) was heated to reflux for two hours. The precipitate was filtered off by suction, washed with toluene, and dried in vacuo.

reactant | 3-trifluoromethylbenzylbromide | 0.019 mol, 4.6 g | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | triphenylphosphine | 0.019 mol, 5.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Trifluoromethyl-benzyltriphenylphosphonium bromide | [Br-].FC(C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1)(F)F | InChI=1S/C26H21F3P.BrH/c27-26(28,29)22-12-10-11-21(19-22)20-30(23-13-4-1-5-14-23,24-15-6-2-7-16-24)25-17-8-3-9-18-25;/h1-19H,20H2;1H/q+1;/p-1
